US07560558B2
Compound 325: Propyl 3-[7-(3-chloro-propoxy)-6-methoxy-quinolin-4-yloxy]-naphthalene-2-carboxylate
Propyl 3-(7-hydroxy-6-methoxy-quinolin-4-yloxy)-naphthalene-2-carboxylate (240 mg) was dissolved in N,N-dimethylformamide (6 ml) to prepare a solution. Potassium carbonate (822 mg) and 1-bromo-3-chloropropane (0.29 ml) were added to the solution, and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-chloroform to give the title compound (230 mg, yield 81%).

reactant | Propyl 3-(7-hydroxy-6-methoxy-quinolin-4-yloxy)-naphthalene-2-carboxylate | 240 mg | OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=CC2=CC=CC=C2C1)C(=O)OCCC)OC | C24H21NO5
reactant | Potassium carbonate | 822 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 0.29 ml | BrCCCCl | C3H6BrCl
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | Propyl 3-[7-(3-chloro-propoxy)-6-methoxy-quinolin-4-yloxy]-naphthalene-2-carboxylate | 230 mg, yield 81% | ClCCCOC1=C(C=C2C(=CC=NC2=C1)OC=1C(=CC2=CC=CC=C2C1)C(=O)OCCC)OC | C27H26ClNO5
